US07652008B2
(3R*,4S*)-6-methoxy-2,2-dimethyl-7-nitro-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-1-benzopyran-3-ol
To a solution of (3R*,4S*)-3,4-epoxy-6-methoxy-2,2-dimethyl-7-nitro-3,4-dihydro-2H-1-benzopyran (2.50 g, 9.95 mmol) in 1,4-dioxane(5.0 mL), lithium perchlorate (1.06 g, 9.95 mmol) and 4-(phenylethyl)amine (1.50 mL, 11.9 mmol) were added at room temperature and the mixture was stirred at 80° C. for 1 hour. Upon the completion of the reaction, an aqeuous solution of saturated ammonium chloride was added to the reaction solution, and the resulting solution was extracted with ethyl acetate. The organic phase was washed with saturated sodium chloride solution, and then dried over anhydrous sodium sulfate. After distilling off the solvent, the residue was purified by column chromatography (hexane/ethyl acetate=6/4) and the aimed product was obtained as yellow amorphous substance (quantitative yield).

reactant | (3R*,4S*)-3,4-epoxy-6-methoxy-2,2-dimethyl-7-nitro-3,4-dihydro-2H-1-benzopyran | 9.95 mmol, 2.50 g | O1[C@H]2C(OC3=C([C@@H]21)C=C(C(=C3)[N+](=O)[O-])OC)(C)C | C12H13NO5
reactant | lithium perchlorate | 9.95 mmol, 1.06 g | Cl(=O)(=O)(=O)[O-].[Li+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | 1,4-dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
product | (3R*,4S*)-6-methoxy-2,2-dimethyl-7-nitro-4-[(2-phenylethyl)amino]-3,4-dihydro-2H-1-benzopyran-3-ol | quantitative yield | COC=1C(=CC2=C([C@@H]([C@H](C(O2)(C)C)O)NCCC2=CC=CC=C2)C1)[N+](=O)[O-] | C20H24N2O5
